US08541588B2
4-[2-(2-aminopyridin-4-yl)-4-chlorophenoxy]-5-chloro-2-fluoro-N-pyridazin-3-ylbenzenesulfonamide
4-[2-(2-aminopyridin-4-yl)-4-chlorophenoxy]-5-chloro-2-fluoro-N-(methoxymethyl)-N-pyridazin-3-ylbenzenesulfonamide and 4-[2-(2-aminopyridin-4-yl)-4-chlorophenoxy]-5-chloro-2-fluoro-N-[(3E)-2-(methoxymethyl)pyridazin-3(2H)-ylidene]benzenesulfonamide, (Preparation 875, 93 mg, 0.17 mmol) in trifluoroacetic acid (1 mL, 10 mmol) was stirred for 24 hours. The reaction mixture was concentrated and the residue was taken in methanol (1 mL, 20 mmol) and 2 M of hydrogen chloride in water (1 mL, 2 mmol). After stirring for two days, the reaction mixture was concentrated and the residue liophilized from acetonitrile-water to give 76 mg of product as a hydrochloride salt.

reactant | 4-[2-(2-aminopyridin-4-yl)-4-chlorophenoxy]-5-chloro-2-fluoro-N-(methoxymethyl)-N-pyridazin-3-ylbenzenesulfonamide | NC1=NC=CC(=C1)C1=C(OC2=CC(=C(C=C2Cl)S(=O)(=O)N(C=2N=NC=CC2)COC)F)C=CC(=C1)Cl | C23H18Cl2FN5O4S
reactant | 4-[2-(2-aminopyridin-4-yl)-4-chlorophenoxy]-5-chloro-2-fluoro-N-[(3E)-2-(methoxymethyl)pyridazin-3(2H)-ylidene]benzenesulfonamide | NC1=NC=CC(=C1)C1=C(OC2=CC(=C(C=C2Cl)S(=O)(=O)/N=C\2/N(N=CC=C2)COC)F)C=CC(=C1)Cl | C23H18Cl2FN5O4S
reactant | trifluoroacetic acid | 10 mmol, 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | methanol | 20 mmol, 1 mL | CO | CH4O
reactant | hydrogen chloride | 2 M | Cl | ClH
reactant | water | 2 mmol, 1 mL | O | H2O
product | 4-[2-(2-aminopyridin-4-yl)-4-chlorophenoxy]-5-chloro-2-fluoro-N-pyridazin-3-ylbenzenesulfonamide | 76 mg | NC1=NC=CC(=C1)C1=C(OC2=CC(=C(C=C2Cl)S(=O)(=O)NC=2N=NC=CC2)F)C=CC(=C1)Cl | C21H14Cl2FN5O3S
